US08426420B2
i) (S)-4-[6-Benzyloxy-2-(9H-fluoren-9-ylmethoxycarbonylamino)-hexanoyl]-piperazine-1-carboxylic acid ethyl ester
To a solution of 500 mg (S)-6-Benzyloxy-2-(9H-fluoren-9-ylmethoxycarbonylamino)-hexanoic acid in 7 ml DMF were added at 0° C. 172 mg piperazine-1-carboxylic acid ethyl ester, 0.14 ml N-ethylmorpholine and 357 mg TOTU. After stirring for 3 h the solution was diluted with ethyl acetate and subsequently washed with aqueous LiCl (4%) and half-saturated aqueous NaHCO3. The crude product obtained after evaporation of the solvent was used without further purification. Yield: 663 mg.

reactant | (S)-6-Benzyloxy-2-(9H-fluoren-9-ylmethoxycarbonylamino)-hexanoic acid | 500 mg | C(C1=CC=CC=C1)OCCCC[C@@H](C(=O)O)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C28H29NO5
reactant | piperazine-1-carboxylic acid ethyl ester | 172 mg | C(C)OC(=O)N1CCNCC1 | C7H14N2O2
reactant | N-ethylmorpholine | 0.14 ml | C(C)N1CCOCC1 | C6H13NO
reactant | TOTU | 357 mg | [B-](F)(F)(F)F.CCOC(=O)C(=NOC(=[N+](C)C)N(C)C)C#N
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-4-[6-Benzyloxy-2-(9H-fluoren-9-ylmethoxycarbonylamino)-hexanoyl]-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CCCCOCC1=CC=CC=C1)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)=O | C35H41N3O6
